US06291485B1
A. Synthesis of 3-tert-butoxycarbonylaminobenzylhydrazine
While a solution of hydrazine monohydrate (1.32 g, 26.4 m mol) in ethanol (20 ml) was heated under reflux, a solution of 3-tert-butoxycarbonylaminobenzyl chloride (1.06 g, 4.4 m mol) in ethanol (10 ml) was added dropwise thereto over a period of 5 minutes. After this mixture was further refluxed for 0.5 hour, the solvent was distilled off under reduced pressure. The resulting oily residue was extracted with ether (2×20 ml). After the extract was concentrated under reduced pressure, the resulting residue was subjected to chromatography on silica gel (50 g) using chloroform-methanol (10:1), so that the desired compound (0.91 g, 87%) was obtained as an oily material.

reactant | hydrazine monohydrate | 1.32 g | O.NN
reactant | 3-tert-butoxycarbonylaminobenzyl chloride | 1.06 g | C(C)(C)(C)OC(=O)NC=1C=C(CCl)C=CC1 | C12H16ClNO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-tert-butoxycarbonylaminobenzylhydrazine | 0.91 g, 87% | C(C)(C)(C)OC(=O)NC=1C=C(CNN)C=CC1 | C12H19N3O2
